* NAND as inverter: a=1, pulse b
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerMOSlv.lib mos_ss
.option temp=125
.include /work/analog/out/blocks/blocks.spice
Vdd VPWR 0 1.2
Vc0 code[0] 0 0
Vc1 code[1] 0 0
Vc2 code[2] 0 0
Vc3 code[3] 0 0
Vc4 code[4] 0 1.2
Vc5 code[5] 0 0
Vc6 code[6] 0 0
Vc7 code[7] 0 0
Xdac code[0] code[1] code[2] code[3] code[4] code[5] code[6] code[7] vbp VPWR 0 csro_dac
XMPD vbp vbp VPWR VPWR sg13_lv_pmos w=48u l=0.5u ng=24
XMPM vbn vbp VPWR VPWR sg13_lv_pmos w=1u l=0.5u ng=1
XMND vbn vbn 0 0 sg13_lv_nmos w=0.5u l=0.5u ng=1
Va a 0 1.2
Vin p 0 pulse(0 1.2 1.355e-08 50p 50p 2.71e-08 5.42e-08)
Xdrv p b vbp vbn VPWR 0 csro_stage
Xnand a b y vbp vbn VPWR 0 csro_nand
Xload y z vbp vbn VPWR 0 csro_stage
Xload2 z zz vbp vbn VPWR 0 csro_stage
.control
tran 2.71e-11 1.626e-07
let vh = 1.2/2
meas tran tin_f when v(b)=vh fall=2
meas tran tout_r when v(y)=vh rise=2
meas tran tin_r when v(b)=vh rise=2
meas tran tout_f when v(y)=vh fall=2
let tplh = tout_r - tin_f
let tphl = tout_f - tin_r
echo "tplh=$&tplh tphl=$&tphl"
.endc
.end
